US06992067B2
[5-(4-{1-(4-Fluorophenyl)-3-[3-(4-fluorophenyl)-3-hydroxypropyl]-4-oxoazetidin-2-yl}phenoxy)pentyl]trimethylammonium bromide (54)
548 mg of [5-(4-{1-(4-fluorophenyl)-3-[3-(4-fluorophenyl)-3-(isopropyldimethyl-silanyloxy)propyl]-4-oxoazetidin-2-yl}phenoxy)pentyl]trimethylammonium bromide are dissolved in 20 ml of methanol. 1 ml of a 0.1 M aqueous HCl solution is then added, and the reaction solution is stirred at room temperature overnight. The mixture is neutralized with dilute aqueous sodium bicarbonate solution and concentrated using a rotary evaporator. The residue is purified using a 10 g SiO2 cartridge (dichloromethane/methanol 5:1). The product is obtained as a hygroscopic solid. C32H39BrF2N2O3 (617) MS (ESI): M+−80

reactant | [5-(4-{1-(4-fluorophenyl)-3-[3-(4-fluorophenyl)-3-(isopropyldimethyl-silanyloxy)propyl]-4-oxoazetidin-2-yl}phenoxy)pentyl]trimethylammonium bromide | 548 mg | [Br-].FC1=CC=C(C=C1)N1C(C(C1=O)CCC(O[Si](C)(C)C(C)C)C1=CC=C(C=C1)F)C1=CC=C(OCCCCC[N+](C)(C)C)C=C1
reactant | HCl | 0.1 M | Cl | ClH
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methanol | 20 ml | CO | CH4O
product | [5-(4-{1-(4-Fluorophenyl)-3-[3-(4-fluorophenyl)-3-hydroxypropyl]-4-oxoazetidin-2-yl}phenoxy)pentyl]trimethylammonium bromide | [Br-].FC1=CC=C(C=C1)N1C(C(C1=O)CCC(O)C1=CC=C(C=C1)F)C1=CC=C(OCCCCC[N+](C)(C)C)C=C1 | InChI=1S/C32H39F2N2O3.BrH/c1-36(2,3)21-5-4-6-22-39-28-17-9-24(10-18-28)31-29(19-20-30(37)23-7-11-25(33)12-8-23)32(38)35(31)27-15-13-26(34)14-16-27;/h7-18,29-31,37H,4-6,19-22H2,1-3H3;1H/q+1;/p-1
